US04271304
4-(2,2-Diphenylethoxy)-pyridine-1-oxide
2,2-diphenylethanol (4 g, 0.02 m) was added portionwise to a suspension of sodium hydride (0.48 g, 0.02 m) in dry dimethylformamide (200 ml) under nitrogen. After the reaction had ceased, the mixture was added dropwise to a solution of 4-nitropyridine-1-oxide (2.8 g, 0.02 m) in dry dimethylformamide (100 ml) at 35°-40° C. The mixture was maintained at this temperature for 12 hours and then filtered. The solvent was removed under reduced pressure, leaving a residue that was heated with successive portions of toluene. The toluene solution was evaporated to an oil which was crystallised from a mixture of toluene and 60-80 petrol (1:1). This gave 4-(2,2-diphenylethoxy)pyridine-1-oxide (2.2 g) as orange crystals, m.pt. 134°-138° C.

reactant | 2,2-diphenylethanol | 4 g | C1(=CC=CC=C1)C(CO)C1=CC=CC=C1 | C14H14O
reactant | sodium hydride | 0.48 g | [H-].[Na+]
reactant | 4-nitropyridine-1-oxide | 2.8 g | [N+](=O)([O-])C1=CC=[N+](C=C1)[O-] | C5H4N2O3
reactant | toluene | C1(=CC=CC=C1)C | C7H8
solvent | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 4-(2,2-Diphenylethoxy)-pyridine-1-oxide | C1(=CC=CC=C1)C(COC1=CC=[N+](C=C1)[O-])C1=CC=CC=C1 | C19H17NO2
